Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Respiratory distress
 
Major Surgical or Invasive Procedure:
___ intubation
___ tracheostomy
 
History of Present Illness:
___ is a ___ male with history of alcohol abuse c/b 
recent delirium tremens requiring traumatic intubation 2 months 
ago, who sustained a right cricoid cartilage fracture with 
likely right arytenoid dislocation and resultant subglottic 
stenosis, recently admitted to ___ from ___ to ___ 
with stridor, representing with stridor.

 He was originally admitted from ___ to ___ ___ for alcohol withdrawal c/b DTs and need for intubation, 
s/p self-extubation and reintubation. Since that time, he had 
persistent hoarseness and intermittent stridor, for which he 
tried outpatient steroids and ultimately was admitted here at 
___ within the last week.

The patient was recently admitted to ___ from ___
to ___ with stridor and worsening SOB. He significantly
improved with conservative management, including IV steroids,
racemic epinephrine and PPI. After being stable on the floor, 
the
patient was transitioned to a 15-day PO prednisone taper and
discharged two days ago. He felt fine on ___ and took the
previously prescribed 60mg Prednisone. 

The patient awoke this morning with worsened difficulty 
breathing and stridor and presented to ___ to pick up his 
prescription of Prednisone. The pharmacist was concerned by his 
breathing and immediately called EMS. He was brought to ___. 
___, where he received racemic epi x 2 and 6 mg IV 
decadron and was transferred to ___.

Of note, he has a history of alcohol abuse with reported last 
drink last night.

___ the ED, initial vitals: 99.1 130 136/80 24 96% RA 
Labs significant for a WBC 25. BMP WNL.
He received racemic epi inhaled and 10 mg IV diazepam.
On transfer, vitals were:  ___ 11 98% Nasal Cannula 

On arrival to the MICU, he was ___ severe respiratory distress. 
He was gulping for air with audible inspiratory stridor. He was 
using all of his accessory muscles and able to speak only ___ 
short sentences. He was urgently intubated. 

 
Past Medical History:
Cricoid fracture with airway edema requiring tracheostomy
Alcohol abuse c/b delirium tremens
Psoriasis
Panic attacks
Acne
 
Social History:
___
Family History:
Reviewed.  No significant family history
 
Physical Exam:
ADMISSION PHYSICAL EXAM
#ERROR!
Vitals: 98.3 ___ 94% RR 20  
GENERAL: Alert, fatigue, frequently closes his eyes but reopens 
to voice, severe respiratory distress with audible inspiratory 
stridor, tachypnea ___ the ___
HEENT: Sclera anicteric
NECK: supple, supraclavicular retractions, 
LUNGS: clear to auscultation bilaterally, subcostal retractions  

CV: tachycardiac, regular rhythmn 
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN:  no rash
NEURO:  alert, oriented, moves all extremities

DISCHAGRE PHYSICAL EXAM 
#ERROR!
Vitals: T:97.7 105/62 HR 58 R:20 O2:97% Trach mask 40%   

General: Alert, oriented, no acute distress, thin appearing, 
mouthing words, non verbal with trach ___ place  
HEENT: Sclera anicteric, MMM, oropharynx clear, trach ___ place, 
site appears c/d/I without erythema. dobhoff ___ left nare
Lungs: coarse breath sounds bilaterally without focal rhonchi 
CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
Abdomen: thin, soft, non-tender, non-distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: Without rashes or lesions  
Neuro: AOx3, no tremor, strength ___ ___ tact, sensation grossly 
___ tact, gait deferred.   

 
 
Pertinent Results:
ADMISSION LABS
#ERROR!

___ 11:00AM   ___ PTT-25.3 ___
___ 11:00AM   PLT COUNT-353
___ 11:00AM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 11:00AM   NEUTS-80* BANDS-0 LYMPHS-6* MONOS-14* EOS-0 
BASOS-0 ___ MYELOS-0 AbsNeut-20.00* AbsLymp-1.50 
AbsMono-3.50* AbsEos-0.00* AbsBaso-0.00*
___ 11:00AM   WBC-25.0*# RBC-4.51* HGB-15.2 HCT-43.0 MCV-95 
MCH-33.7* MCHC-35.3 RDW-11.9 RDWSD-41.8
___ 11:00AM   GLUCOSE-119* UREA N-11 CREAT-0.4* SODIUM-133 
POTASSIUM-3.8 CHLORIDE-91* TOTAL CO2-31 ANION GAP-15

DISCHARGE LABS
#ERROR!
___ 06:41AM BLOOD WBC-19.8* RBC-4.03* Hgb-13.6* Hct-39.0* 
MCV-97 MCH-33.7* MCHC-34.9 RDW-11.8 RDWSD-41.4 Plt ___
___ 06:41AM BLOOD Plt ___
___ 06:41AM BLOOD Glucose-149* UreaN-13 Creat-0.3* Na-135 
K-4.3 Cl-95* HCO3-29 AnGap-15
___ 06:41AM BLOOD Calcium-9.1 Phos-3.7 Mg-2.1

MICRO
#ERROR!
___ 3:42 pm SPUTUM      Source: Endotracheal. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      3+  ___ per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CHAINS. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 

   RESPIRATORY CULTURE (Final ___: 
      MODERATE GROWTH Commensal Respiratory Flora. 
      NEISSERIA MENINGITIDIS.    MODERATE GROWTH. 

STUDIES
#ERROR!

CT Neck w/o Contrast ___
1. Ossification of the right cricoid cartilage, likely 
posttraumatic.  
Fracture with medial and superior displacement of the right 
cricoid cartilage and right arytenoid cartilage.  Possible 
widening of the cricoid arytenoid articulation. 
  
2. Soft tissue prominence ___ the glottic and subglottic space on 
the right 
with associated narrowing of the airway. 

CXR ___
Tracheostomy tube is present with tip ___ a midline position 
terminating 2.1 cm above the carina.  Cardiomediastinal contours 
are normal.  Left retrocardiac opacity is associated with volume 
loss favoring atelectasis although coexisting aspiration and or 
contusion are possible ___ the setting of recent trauma.  
Multiple left rib fractures appear to be subacute or chronic, 
but additional dedicated rib films may be helpful if the patient 
has localizing symptoms and recent trauma history. 

 
Brief Hospital Course:
___ is a ___ male with history of alcohol abuse c/b 
recent delirium tremens requiring traumatic intubation 2 months 
ago, who sustained a right cricoid cartilage fracture with 
likely right arytenoid dislocation and resultant subglottic 
stenosis, recently admitted to ___ from ___ to ___ 
with stridor, who represented with stridor, s/p emergent 
intubation and bedside tracheotomy ___, transferred from MICU 
to general medicine floor for continued management.    

ACTIVE ISSUES
#ERROR!
# Right cricoid cartilage fracture, likely right arytenoid 
dislocation and resultant subglottic stenosis: Patient with 
known subglottic stenosis, vocal cord edema, and inversion of 
the cricothyroid cartilage causing airway narrowing and stridor, 
likely due to traumatic intubation/extubation ___ ___. 
He has presented to care multiple times and has failed 
outpatient treatment with a prolonged oral steroid course. Upon 
arrival to the ICU, he was acutely stridorous and underwent 
emergent intubation and bedside tracheotomy on ___. Patient 
initially intubated successfully by anesthesia using 6.0 tube. 
Bronchoscopy showed significant mucus plugging on left side, 
however unable to suction ___ small tube size. He was started on 
IV Dexamethasone 12mg q6hrs and gradually tapered by no more 
than 20% daily. He was discharged to rehab on a dexamethasone 
taper, liquid formulation given through his Dobhoff. He was 
evaluated by both ENT and ACS. He is to have the tracheotomy 
tube downsized 10 days after placement (around ___ once the 
original tract matures. ACS did not want to change out the trach 
while he was inpatient and deferred this to respiratory therapy 
at the rehabilitation facility. He was set up with ENT as an 
outpatient to discuss the different surgical possibilities for 
his airway and to discuss timing of and tracheotomy reversal. 

# Bradycardia. While ___ the ICU after his tracheotomy procedure, 
he was noted to have asymptomatic bradycardia to 40-50s on 
telemetry. EKG was sinus bradycardia. It was thought there may 
have been a component on vagal stimulation during his 
tracetomoty to cause his new bradycardia.  

# Nutrition. He was evaluated by speech and swallow during 
admission. Given the size of the tracheotomy and persistent 
airway edema he was unable to be fit for a speaking valve. Per 
the policy of the inpatient speech and swallow team he was 
unable to be tested trialing POs given that he did not have a 
speaking value ___ place and was a new tracheotomy patient. He 
was started on tube feeds with plan to repeat speech and swallow 
evaluation at rehab following downsizing of the tracheostomy and 
placement of a speaking value, with eventual transition back to 
POs.   

# N. meningitidis ___ sputum culture. ID and infection control 
consulted on ___ given moderate growth of neiserria 
meningitides. ID and Infection control were both consulted. This 
likely represented colonization given no indication of active 
infection (no e/o PNA, no systemic signs of infection). ID did 
not recommend eradicating nasopharyngeal carriage ___ this 
patient at this time. Per infection control at ___, the 
patient did not need to be on droplet precautions or isolation 
even with his trach ___ place.

# Leukocytosis: This was thought likely reactive ___ the setting 
of steroids. He was influenza negative, and respiratory culture 
showed commensal flora and Neisseria colonization, without w/o 
evidence of infection on CXR. He was afebrile without other 
identifiable sources of infection. 

CHRONIC ISSUES
#ERROR!

# Alcohol abuse: He presented with ongoing alcohol use.  He did 
not show evidence of withdrawal. He met with the social worker 
and expressed a desire to continue drinking ___ moderation. 

# Tobacco use: He was continued on a nicotine patch.

TRANSITIONAL ISSUES 
#ERROR!

# Alcohol abuse
- Patient met with social worker during admission and expressed 
desire to continue drinking ___ moderation as an outpatient. 
Recommend readdressing dangers of drinking, ___ the setting of 
his history of delirium tremens, and counseling regarding 
alcohol abstinence again ___ the outpatient setting.

# Tracheotomy 
- Tracheotomy placed by General Surgery, Dr. ___ on 
___
- Will need to be downsized with respiratory therapy and 
rehabilitation MD after tract has matured (~10 days after 
placement, Day ___.
- Sutures to be removed at time of trach downsizing  
- After downsizing, patient will need to be fitted for a 
speaking valve and will need repeat speech and swallow 
evaluation to determine appropriate time to trial oral intake. 
- Please direct any questions regarding tracheotomy care to Dr. 
___ ___ the Acute Care Surgery office at ___ # 
___ 

# Steroid Taper 
Steroid Taper with Liquid Dexamethasone
___: 6mg @ 8am, 4mg @ 4pm and @ midnight
___: 4mg three times daily 
___: 4mg twice daily 
___: 6mg daily 
___: 5mg daily 
___: 4mg daily 
___: 3mg daily 
___: 2mg daily 
___: 1mg daily 
___: 0.5mg daily 
___: Stop 

***Alternatively***
- If patient is able to swallow pills after tracheostomy 
downsizing on ___ recommend switching from liquid dexamethasone 
to oral prednisone according to the following taper outlined 
below

--------------------
Liquid Dexamethasone
-------------------- 
___: 6mg @ 8am, 4mg @ 4pm and @ midnight
___: 4mg three times daily 
___: 4mg twice daily 
___: 6mg daily 
Switch to Oral Prednisone
___: 30mg PO Prednisone daily 
___: 20mg PO Prednisone daily 
___: 10mg PO Prednisone daily 
___: 5mg PO prednisone daily 
___: Stop    

# Pain Control:
-Patient with significant pain at ___ site currently on prn 
oxycodone. Please wean as tolerated. 

# Neisseria meningitides Colonization
- Determined to be colonization ___ his respiratory tract. 
Infectious Disease and Infection Control consulted. He does not 
require treatment to decolonize. He does not require droplet 
precautions or isolation per ___ Infection Control. 

# Leukocytosis: Noted to have elevated WBC count ___ ___ 
setting of high dose steroids. Please ensure WBC count has 
downtrended following steroid completion. 

# Communication: HCP: ___ ___ (mother)  
# Code: Full, (confirmed) with patient

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FoLIC Acid 1 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Pantoprazole 40 mg PO Q12H 
4. Thiamine 100 mg PO DAILY 
5. PredniSONE 50 mg PO DAILY 
Start: After 60 mg DAILY tapered dose 
This is dose # 2 of 6 tapered doses
6. PredniSONE 40 mg PO DAILY 
Start: After 50 mg DAILY tapered dose 
This is dose # 3 of 6 tapered doses
7. PredniSONE 30 mg PO DAILY 
Start: After 40 mg DAILY tapered dose 
This is dose # 4 of 6 tapered doses
8. PredniSONE 20 mg PO DAILY 
Start: After 30 mg DAILY tapered dose 
This is dose # 5 of 6 tapered doses
9. PredniSONE 10 mg PO DAILY 
Start: After 20 mg DAILY tapered dose 
This is dose # 6 of 6 tapered doses
10. sodium chloride 3 % inhalation Four times daily as needed 

 
Discharge Medications:
1. FoLIC Acid 1 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Acetaminophen (Liquid) 1000 mg PO Q8H 
4. Dexamethasone 4 mg PO Q8H Duration: 5 Doses 
5. Docusate Sodium (Liquid) 100 mg PO BID 
6. Guaifenesin ___ mL PO Q6H:PRN cough 
7. Lansoprazole Oral Disintegrating Tab 30 mg PO BID 
8. Nicotine Patch 14 mg TD DAILY 
9. OxycoDONE Liquid 5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg/5 mL 5 mL by mouth every four hours as needed 
for pain Refills:*0
10. Polyethylene Glycol 17 g PO BID constipation  
11. Senna 8.6 mg PO BID constipation  
12. TraZODone 25 mg PO QHS:PRN insomnia 
13. Thiamine 100 mg PO DAILY 
14. Dexamethasone As directed mg PO AS DIRECTED 
Patient should continue steroid taper with dexamethasone as 
directed ___ ___ paperwork  
Tapered dose - DOWN 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis 
Right cricoid cartilage fracture, right arytenoid dislocation 
and resultant subglottic stenosis

Secondary Diagnosis 
Bradycardia 
Tracheostomy 
Alcohol abuse
Tobacco Abuse 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you during your 
hospitalization. Briefly, you were hospitalized with shortness 
of breath. Given the narrowing of your airways, you had an 
emergent procedure ___ the ICU for placement of a tracheostomy. 
You were placed on high dose steroids and will continue taking 
these according to the taper outlined below. You will need to 
have the tracheostomy tube downsized no sooner than 10 days 
after placement (It was placed on ___. Once this has been 
downsized, you can be fitted for a speaking valve and begin to 
swallowing food and medications. Until that point, you will get 
nutrition with the tube feeds. 

You will have follow up with the ENT Surgeons on ___. We 
have called Dr. ___ and are waiting to hear back if 
you can have an earlier appointment. 

We wish you the best, 

Your ___ Treatment Team 

Steroid Taper with Liquid Dexamethasone
___: 6mg @ 8am, 4mg @ 4pm and @ midnight
___: 4mg three times daily 
___: 4mg twice daily 
___: 6mg daily 
___: 5mg daily 
___: 4mg daily 
___: 3mg daily 
___: 2mg daily 
___: 1mg daily 
___: 0.5mg daily 
___: Stop 

***Alternatively***
- If patient is able to swallow pills after tracheostomy 
downsizing on ___ could switch from liquid dexamethasone to 
oral prednisone according to the following taper outlined below

--------------------
Liquid Dexamethasone
-------------------- 
___: 6mg @ 8am, 4mg @ 4pm and @ midnight
___: 4mg three times daily 
___: 4mg twice daily 
___: 6mg daily 
Switch to Oral Prednisone
___: 30mg PO Prednisone daily 
___: 20mg PO Prednisone daily 
___: 10mg PO Prednisone daily 
___: 5mg PO prednisone daily 
___: Stop    
   
 
Followup Instructions:
___